US04785008
Preparation of 2-(2-hydroxy-4-methylphenyl)amino-4-carbethoxythiazole hydrobromide
0.065 mole of 1-(2-hydroxy-4-methylphenyl)-2-thiourea and 0.077 mole of ethyl bromopyruvate in 100 ml of 95° strength ethanol are brought to reflux for 3 hours. After evaporation of the solvent, crystallization of the residual oil is induced in diethyl ether. The product is then recrystallized in an ethanol/ether mixture. (M.p. 158°-60° C.) yield: 65%.

reactant | 1-(2-hydroxy-4-methylphenyl)-2-thiourea | 0.065 mole | OC1=C(C=CC(=C1)C)NC(=S)N | C8H10N2OS
reactant | ethyl bromopyruvate | 0.077 mole | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-hydroxy-4-methylphenyl)amino-4-carbethoxythiazole hydrobromide | yield: 65% | Br.OC1=C(C=CC(=C1)C)NC=1SC=C(N1)C(=O)OCC | InChI=1S/C13H14N2O3S.BrH/c1-3-18-12(17)10-7-19-13(15-10)14-9-5-4-8(2)6-11(9)16;/h4-7,16H,3H2,1-2H3,(H,14,15);1H
